US04021229
Preparation of N-methoxy-2,4,5-trichlorobenzenesulfonamide
5.0 g. of methoxy amine was dissolved in 100 ml. of H2O. Then, 14.0 g. of 2,4,5-trichlorobenzene sulfonyl chloride dissolved in 25 ml. of tetrahydrofuran was added under high speed mechanical stirring. Then, 8.8 g. of sodium hydroxide in a 50% solution + 10 ml. of water was dropped in at room temperature. An exothermic reaction took place and the temperature went up to 37.5° C. When the reaction subsided, it was stirred at room temperature for two hours and the solid was then filtered off and stirred into 150 ml. of ether for one hour. The solid was removed by filtration to yield 11.3 g. of product. The product was redissolved in ether. The ether was evaporated to yield 7.4 g. of product, m.p. 163°-166° C.

reactant | methoxy amine | CON | CH5NO
reactant | 2,4,5-trichlorobenzene sulfonyl chloride | ClC1=C(C=C(C(=C1)Cl)Cl)S(=O)(=O)Cl | C6H2Cl4O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-methoxy-2,4,5-trichlorobenzenesulfonamide | CONS(=O)(=O)C1=C(C=C(C(=C1)Cl)Cl)Cl | C7H6Cl3NO3S
